US05922870
N-(4-Fluorophenyl)-6-[3-(trifluoromethyl)phenoxy]pyrazine-2-carboxamide
Analogously to Example 3, 25 mmol of 2-chloro-6-[3-(trifluoromethyl)phenoxy]pyrazine (prepared according to U.S. Pat. No. 4,254,125, Example 21), 27.5 mmol of 4-fluoroaniline, 2.92 g (27.5 mmol) of sodium carbonate, 17.5 mg (25 μmol) of dichlorobis(triphenylphosphine)palladium(II) and 0.31 g (0.75 mmol) of (±)-1-[2-(diphenylphosphino)-ferrocenyl]ethyl-di-tert-butylphosphine in 25 ml of xylene were reacted under a CO pressure of 17 bar at 120° C. for 21 hours. The composition of the dissolved products in the xylene phase was determined by GC. 65.3 percent of the title compound (amide) and 34.7 percent of by-product (secondary amine) were found. The amide was isolated by column chromatography and purified. Data concerning the title product was:

reactant | 2-chloro-6-[3-(trifluoromethyl)phenoxy]pyrazine | 25 mmol | ClC1=NC(=CN=C1)OC1=CC(=CC=C1)C(F)(F)F | C11H6ClF3N2O
reactant | 4-fluoroaniline | 27.5 mmol | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium carbonate | 27.5 mmol, 2.92 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 25 μmol, 17.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | (±)-1-[2-(diphenylphosphino)-ferrocenyl]ethyl-di-tert-butylphosphine | 0.75 mmol, 0.31 g | C1(=CC=CC=C1)P(C=1[C-](C=CC1)C(C)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1.[CH-]1C=CC=C1.[Fe+2]
product | N-(4-Fluorophenyl)-6-[3-(trifluoromethyl)phenoxy]pyrazine-2-carboxamide | 65.3 percent | FC1=CC=C(C=C1)NC(=O)C1=NC(=CN=C1)OC1=CC(=CC=C1)C(F)(F)F | C18H11F4N3O2
